US06344570B1
a) Preparation of t-butyl N-(2-methylpropyl) glycine
t-Butyl bromoacetate (8.4 ml, 10.1 g) was added under an atmosphere of argon to a solution of isobutylamine (50 ml, 36.8 g) in diethyl ether (100 ml) at −40° C. with stiming over 5 min. The solution was stirred at this temperature for 1 hr and then at ambient temperature for 18 hr. The mixture was filtered and the filtrate distilled at ambient pressure to remove ether and subsequently excess isobutylamine (b.p. 64-66° C.) and then under reduced pressure to give the product Yield 82% b.p. 68° C./3 mm NMR (CDCl3 300 MHz, ppm) 3.28(2H, s), 2.4(2H, d), 1.72(1H, m), 1.48(9H,s), 0.92(6H,d). m/Z 188.3 (M+H).

reactant | t-Butyl bromoacetate | 8.4 ml, 10.1 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | isobutylamine | 50 ml, 36.8 g | C(C(C)C)N | C4H11N
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | t-butyl N-(2-methylpropyl) glycine | Yield 82% | C(C)(C)(C)N(CC(=O)O)CC(C)C | C10H21NO2
